US07723336B2
In a 200 ml round bottom flask charged with N6-(trans)-4-aminocyclohexyl)-N8-(4-aminophenyl)imidazo[1,2-b]pyridazine-6,8-diamine (0.39 g, 1.1 mmol) from 1b and dichloromethane (10 ml) was added di-tert-butyl dicarbonate (0.25 g, 1.1 mmol) in dichloromethane (2 ml). The reaction was stirred at room temperature for 30 min, then concentrated and purified on silica gel (ethyl acetate/heptane, 20 min gradient: 15-100% ethyl acetate). tert-butyl(trans)-4-(8-(4-aminophenylamino)imidazo[1,2-b]pyridazin-6-ylamino)cyclohexylcarbamate (0.050 g) was obtained as a white solid.

reactant | N8-(4-aminophenyl)imidazo[1,2-b]pyridazine-6,8-diamine | 1.1 mmol, 0.39 g | NC1=CC=C(C=C1)NC=1C=2N(N=C(C1)N)C=CN2 | C12H12N6
reactant | di-tert-butyl dicarbonate | 1.1 mmol, 0.25 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | tert-butyl(trans)-4-(8-(4-aminophenylamino)imidazo[1,2-b]pyridazin-6-ylamino)cyclohexylcarbamate | 0.050 g | NC1=CC=C(C=C1)NC=1C=2N(N=C(C1)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C=CN2 | C23H31N7O2
